US06933299B1
3-(5-{4-[4-(3-Fluoro-benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-N-[2-(iso-propanesulfonyl)ethyl]-2-propenamide
Prepared according to Procedure I utilizing 3-(5-{4-[4-(3-fluorobenzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoic acid (0.22 g, 0.4 mmol), carbonyldiimidazole (0.58 g,3.6 mmol), and iso-propanesulfonylethylamine (0.24 g, 1.6 mmol) in DMF to afford the title compound (0.088 g). Electrospray MS 649 m/z (MH+).

reactant | 3-(5-{4-[4-(3-fluorobenzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoic acid | 0.4 mmol, 0.22 g | FC=1C=C(COC2=C(C=C(NC3=NC=NC4=CC=C(C=C34)C3=CC=C(O3)C=CC(=O)O)C=C2)Cl)C=CC1 | C28H19ClFN3O4
reactant | carbonyldiimidazole | 3.6 mmol, 0.58 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | iso-propanesulfonylethylamine | 1.6 mmol, 0.24 g | C(C)(C)S(=O)(=O)CCN | C5H13NO2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(5-{4-[4-(3-Fluoro-benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-N-[2-(iso-propanesulfonyl)ethyl]-2-propenamide | 0.088 g | FC=1C=C(COC2=C(C=C(NC3=NC=NC4=CC=C(C=C34)C3=CC=C(O3)C=CC(=O)NCCS(=O)(=O)C(C)C)C=C2)Cl)C=CC1 | C33H30ClFN4O5S
